Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
1. Abdominal pain
2. Chills
 
Major Surgical or Invasive Procedure:
___: Endoscopic retrograde cholangiopancreatography 

 
History of Present Illness:
Patient is a ___ female with h/o NIDDM who was in ___ 
until 4d ago when developed non-bilious emesis and diarrhea for 
2 days duration.  Symptoms
subsided and were replaced 2 days ago with epigastric abdominal 
pain, radiating to RUQ and to her back.  Noted increased burping 
but no longer any emesis. Positive chills but no fevers.  
Presented to ___ last night where labs noted elevated 
lipase and bilirubin, suggestive of gallstone pancreatitis, with 
CT showing choledocholithiasis as well.  Given Zosyn and 
transferred to ___ for potential ERCP.  Pt reports decreased 
abdominal pain since beginning transfer, currently almost 
pain-free.

 
Past Medical History:
PMH: 
1. CAD
2. HTN
3. Hypercholesterolemia
4. NIDDM
5. Hypothyroidism
6. Anxiety
7. Renal CA

PSH: 
1. CABG ___
2. Right nephrectomy
3. Right hemithyroidectomy
4. Right breast lumpectomy

 
Social History:
___
Family History:
Significant for DM, CAD, no cancers nor gallstones.

 
Physical Exam:
On Admission: 
VS: T 98.4,  HR 106, BP 156/66,  RR 18,  98% on RA
___: A&Ox3, NAD, visibly anxious and tremulous
Lungs: CTAB
CV: RRR.  Well-healed sternotomy scar.
Abdomen: Soft, ND, minimally tender epigastrium/RUQ without 
rebound or guarding.  Well-healed R subcostal scar (which pt 
says is from her nephrectomy) without hernia.
Extr: WWP sans c/c/e

On Discharge:
VS: T 98.4, HR 71, BP 130/60, RR 18, 96% RA
___: NAD, comfortably lying in bed 
Heart: RRR, no m/r/g
Lungs: CTAB
Abdomen: Soft, nondistended, nontender. Old right subcostal scar 
well healed.
Extr: Warm , 2+ peripheral pulses, no c/c/e

 
Pertinent Results:
___ 03:30AM   WBC-9.8 RBC-3.98* HGB-11.8* HCT-33.0* MCV-83 
MCH-29.6 MCHC-35.7* RDW-14.6
___ 03:30AM   NEUTS-91.7* LYMPHS-6.3* MONOS-1.8* EOS-0.2 
BASOS-0.1
___ 03:30AM   PLT COUNT-262
___ 03:30AM   ___
___ 03:30AM   TSH-1.7
___ 03:30AM   cTropnT-<0.01
___ 03:30AM   LIPASE-1865*
___ 03:30AM   ALT(SGPT)-90* AST(SGOT)-92* CK(CPK)-43 ALK 
PHOS-211* TOT BILI-2.1*
___ 03:30AM   POTASSIUM-3.2*
___ 03:30AM   GLUCOSE-212* UREA N-47* CREAT-2.9* SODIUM-138 
POTASSIUM-3.3 CHLORIDE-106 TOTAL CO2-15* ANION GAP-20

___ EKG: Sinus rhythm. Possible inferior-posterior 
myocardial infarction of 
indeterminate age. Diffuse non-diagnostic repolarization 
abnormalities. No 
previous tracing available for comparison.  

___ GALLBLADDER ULTRASOUND:
IMPRESSION: 
1. Cholelithiasis and choledocholithiasis. There is a 9-mm stone 
in the 
mid-to-distal duct, with the common bile duct measuring up to 9 
mm both at the porta and the head of the pancreas, which 
suggests the possibility of more distal choledochal stones as 
well. There is associated intrahepatic ductal dilation, but no 
pancreatic ductal dilation.  
2. There is no gallbladder wall thickening, distention of the 
gallbladder, or pericholecystic fluid to suggest acute 
cholecystitis 

___ ERCP: 
Impression: Papilla major was buldging and located at the edge 
of a diverticulum. Stone at the lower third of the common bile 
duct, otherwise normal biliary tree. A sphincterotomy was 
performed. Stone was extracted using a balloon. 

___ 06:20AM BLOOD WBC-4.9 RBC-3.36* Hgb-9.9* Hct-27.6* 
MCV-82 MCH-29.3 MCHC-35.7* RDW-14.6 Plt ___
___ 06:20AM BLOOD Glucose-185* UreaN-31* Creat-2.2* Na-143 
K-3.4 Cl-113* HCO3-18* AnGap-15
___ 06:20AM BLOOD ALT-77* AST-66* AlkPhos-195* TotBili-0.8
___ 06:20AM BLOOD Calcium-8.1* Phos-2.5* Mg-1.9

___ CHEST X-RAY:
 
Brief Hospital Course:
The patient was admitted to the ___ Surgical Service for 
evaluation of the aforementioned problem. On ___, the 
patient underwent Endoscopic Retrograde 
Cholangiopancreatography, which went well without complication 
(reader referred to the Operative Note for details). A single 5 
mm stone that was causing partial obstruction of the common bile 
duct was extracted. The patient arrived on the floor NPO, on IV 
fluids and antibiotics, and IV Dilaudid prn for pain control. 
Night after procedure patient developed rapid atrial 
fibrillation with HR 120-140s, patient received 5mg of Lopressor 
IV x 2, her heart rate was converted to regular. Patient was 
re-started on home dose of: Diovan, Amlodipine and Metoprolol. 
Patient's heart rate and rhythm was monitored with telemetry 
unit and remained regular and sinus. Patient's Aspirin 325 mg PO 
qday was hold since ERCP, and should be not taken for 5 days 
after procedure, patient can restart her Aspirin on ___. On 
next day after ERCP, patient felt better, she denied pain. Diet 
was advanced to regular, and patient tolerated well. IV 
antibiotics was discontinued. Follow up with PCP was scheduled. 
Patient was discharged home in stable condition. 
.
During this hospitalization, the patient ambulated early and 
frequently, was adherent with respiratory toilet and incentive 
spirometry, and actively participated in the plan of care. The 
patient received subcutaneous heparin and venodyne boots were 
used during this stay. The patient's blood sugar was monitored 
regularly throughout the stay; sliding scale insulin was 
administered when indicated. Lab work was routinely followed; 
electrolytes were repleted when indicated.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. ASA 325 mg PO qday
2. Amlodipine 10 mg PO qday
3. Diovan 160 mg Po qday
4. Crestor 10 mg PO qday
5. Glyburide 5 mg PO qday
6. Levothyroxine 75 mcg PO qday
7. Metoprolol 100 mg PO bid

 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Metoprolol Tartrate 100 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
5. Glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Crestor 10 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Tylenol ___ mg Tablet Sig: ___ Tablets PO every six (6) hours 
as needed for pain/headache.  
8. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 5 days.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Cholelithiasis and choledocholithiasis
2. Gallstone pancreatitis
3. Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ Discharge Instructions:
Please resume all regular home medications except Aspirin , 
unless specifically advised not to take a particular medication. 
Please do not take Aspirin x 5 days following discharge (7 days 
from date of ERCP).  Restart Aspirin after 5 days from discharge 
date. Also, please take any new medications as prescribed.
Please check your blood surgar every four hours while you are 
taking antibiotics (ciprofloxacin).
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 
Followup Instructions:
___